US04360680
3-Amino-1-p-tolyl-2-pyrazoline
A 2.8 g. amount of sodium metal is dissolved in 150 ml. of absolute ethanol, then 15.86 g. of p-methylphenylhydrazine hydrochloride is added followed in 5 minutes by 5.5 g. of acrylonitrile. The reaction mixture is refluxed for 18 hours, then is evaporated to dryness in vacuo. Water is added and the separated solid is collected by filtration. The solid is dissolved in dichloromethane and passed through a short column of a hydrous magnesium silicate. The effluent is refluxed with the gradual addition of hexane to separate a crystalline product. The entire crystallization step is repeated to give 3.4 g. of the product of the Example as colorless plates, m.p. 142°-143° C.

reactant | sodium | [Na] | Na
reactant | p-methylphenylhydrazine hydrochloride | Cl.CC1=CC=C(C=C1)NN
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-p-tolyl-2-pyrazoline | NC1=NN(CC1)C1=CC=C(C=C1)C | C10H13N3
